US06777418B2
A mixture of 1.0 g (2.76 mmol) of (E)-methyl-4-[2-(3-methyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate, 0.64 g (3.6 mmol) of N-bromosuccinimide and 0.033 g (0.13 mmol) of benzoyl peroxide in 20 mL of carbon tetrachloride was heated under reflux, under a high intensity lamp. After 2 hours, the reaction was cooled to room temperature and poured into 10% aqueous sodium bisulfite solution. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was stirred with methyl alcohol to afford 0.88 g of Methyl-4-[2-(3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate (72%) (M+=440).

reactant | (E)-methyl-4-[2-(3-methyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 2.76 mmol, 1.0 g | COC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C25H30O2
reactant | N-bromosuccinimide | 3.6 mmol, 0.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.13 mmol, 0.033 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Methyl-4-[2-(3-bromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 0.88 g, 72% | COC(C1=CC=C(C=C1)C=CC1=CC=2C(CCC(C2C=C1CBr)(C)C)(C)C)=O | C25H29BrO2
